US07863271B2
Preparation of (S)—N-(quinuclidine-8-yl)-2-(2-methylpiperazin-1-yl)benzoxazole-4-carboxamide Dihydrochloride
To an ice-cold solution of tert-butyl 3-methyl-4-(4-(quinuclidine-8-ylcarbamoyl)benzoxazole-2-yl)piperazine-1-carboxylate. (90 mg, 0.19 mmol) in CH2Cl2 (5 mL) was added TFA(0.25 mL, 3.2 mmol). The reaction mixture was stirred at room temperature for 12 h, and then concentrated under reduced pressure. The resulting TFA salt was converted to (S—N-(quinuclidine-8-yl)-2-(2-methylpiperazin-1-yl)benzoxazole-4-carboxamide dihydrochloride following GP-D1. 1H NMR and MS consistent.

reactant | tert-butyl 3-methyl-4-(4-(quinuclidine-8-ylcarbamoyl)benzoxazole-2-yl)piperazine-1-carboxylate | CC1CN(CCN1C=1OC2=C(N1)C(=CC=C2)C(NC2CN1CCC2CC1)=O)C(=O)OC(C)(C)C | C25H35N5O4
reactant | TFA | 3.2 mmol, 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S)—N-(quinuclidine-8-yl)-2-(2-methylpiperazin-1-yl)benzoxazole-4-carboxamide Dihydrochloride | Cl.Cl.N12CCC(CC1)C(C2)NC(=O)C=2C=CC=C1C2N=C(O1)N1[C@H](CNCC1)C | InChI=1S/C20H27N5O2.2ClH/c1-13-11-21-7-10-25(13)20-23-18-15(3-2-4-17(18)27-20)19(26)22-16-12-24-8-5-14(16)6-9-24;;/h2-4,13-14,16,21H,5-12H2,1H3,(H,22,26);2*1H/t13-,16?;;/m0../s1
